US07432256B2
a) 5-Methyl-2-(4-methyl-imidazol-1-yl)-benzonitrile
In analogy to example 5a, 2-fluoro-5-methyl-benzonitrile was reacted with 4-methylimidazole and potassium carbonate for 16 h at 90° C. After aqueous workup the title compound was obtained as a white solid (yield: 48%). MS: m/e=198.4 [M+H]+.

reactant | 2-fluoro-5-methyl-benzonitrile | FC1=C(C#N)C=C(C=C1)C | C8H6FN
reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 5-Methyl-2-(4-methyl-imidazol-1-yl)-benzonitrile | CC=1C=CC(=C(C#N)C1)N1C=NC(=C1)C | C12H11N3
